US04180679
Preparation of α4 -Methoxy-N-(1-ethylpropyl)-2,6-dinitro-3,4-xylidine
By the above procedure, but substituting cyclohexylamine for 3-aminopentane, α4 -methoxy-N-cyclohexyl-2,6-dinitro-3,4-xylidine is obtained.

reactant | 3-aminopentane | NC(CC)CC | C5H13N
reactant | methoxy-N-cyclohexyl-2,6-dinitro-3,4-xylidine | CON(C1=C(C(=C(C=C1[N+](=O)[O-])C)C)[N+](=O)[O-])C1CCCCC1 | C15H21N3O5
product | Methoxy-N-(1-ethylpropyl)-2,6-dinitro-3,4-xylidine | CON(C1=C(C(=C(C=C1[N+](=O)[O-])C)C)[N+](=O)[O-])C(CC)CC | C14H21N3O5
